US06130235
Preparation of 4-benzylpiperidinyl-1-(2-propyl)-indole-5-carboxamide
A mixture of 4-benzylpiperidinyl-benzimidazole-5-carboxamide (318 mg, 1 mMol), solid KOH (280 mg, 5 mMol) and 2-iodopropane (1 g, 6 mMol) was refluxed in 20 mL acetone for 20 h. After the removal of acetone in vacuo, the residue was extracted from water with methylene chloride (3×50 mL). The combined extract was dried, evaporated and chromatographed to yield 180 mg (50%) of the desired product. 1HNMR (CDCl3): δ=7.7 (s, 1H); 7.4-7.1 (m, 7H); 4.8-4.6 (m, 1H); 3.0-2.7 (br, m, 4H); 2.6 (d, 2H); 1.8-1.45 (m, 3H); 1.5 (d, 6H); 1.3-1.1 (m, 2H). MS (ESI) m/e 360 (M).

reactant | 4-benzylpiperidinyl-benzimidazole-5-carboxamide | 1 mMol, 318 mg | C(C1=CC=CC=C1)C1CCN(CC1)C=1NC2=C(N1)C=CC(=C2)C(=O)N | C20H22N4O
reactant | KOH | 5 mMol, 280 mg | [OH-].[K+]
reactant | 2-iodopropane | 6 mMol, 1 g | IC(C)C | C3H7I
reactant | acetone | 20 mL | CC(=O)C | C3H6O
product | 4-benzylpiperidinyl-1-(2-propyl)-indole-5-carboxamide | 180 mg, 50% | C(C1=CC=CC=C1)C1CCN(CC1)C=1N(C2=CC=C(C=C2C1)C(=O)N)C(C)C | C24H29N3O
